US09301951B2
6-((4-acetyl-1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide
Into a 50-mL round-bottom flask, was placed a solution of 6-((1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide (135 mg, 0.19 mmol, 1.00 equiv, 95%) in dichloromethane (5 mL), triethylamine (40 mg, 0.39 mmol, 2.00 equiv, 99%), and acetyl chloride (18 mg, 0.23 mmol, 1.20 equiv, 99%). The resulting solution was stirred for 3 h at room temperature. The resulting solution was diluted with 50 mL of dichloromethane. The resulting mixture was washed with 1×50 mL of brine. The mixture was dried over anhydrous sodium sulfate and concentrated under vacuum. The resulting mixture was washed with 2×10 mL of hexane. The product was obtained as 120 mg (87%) of a yellow solid. 1H-NMR (400 MHz, DMSO-d6, ppm): δ 12.86 (s, 1H), 9.54-9.51 (t, 1H), 9.00 (s, 1H), 8.51-8.49 (d, J=6 Hz, 1H), 8.23 (s, 1H), 8.00 (s, 2H), 7.88-7.86 (d, 1H), 7.72-7.55 (m 5H), 7.33 (s, 1H), 7.14-7.11 (d, J=9 Hz, 1H), 4.63 (s, 2H), 3.91-3.88 (s, J=9 Hz, 2H), 3.52-3.50 (m, 4H), 3.21-3.19 (m, 4H), 2.78-2.63 (m, 4H), 2.01-1.98 (d, J=9 Hz, 3H), 1.79-1.55 (m, 8H). MS (ES, m/z): 714 [M+H]+.

reactant | 6-((1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide | 0.19 mmol, 135 mg, 1.00 equiv | N1(CCNCCC1)CC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C37H40F3N7O2
reactant | triethylamine | 0.39 mmol, 40 mg, 2.00 equiv | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.23 mmol, 18 mg, 1.20 equiv | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-((4-acetyl-1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide | 120 mg, 87% | C(C)(=O)N1CCN(CCC1)CC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C39H42F3N7O3
